US06794397B2
6-Chloro-N-(4-chloro-2-cyanophenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 2-amino-5-chlorobenzonitrile as a white solid as described in Example 1. 1H NMR (CDCl3): 8.96 (d, J=2.7, 1H), 8.53-8.50 (M, 1H), 8.24 (s, 1H), 8.19-8.15 (m, 1H), 7.67-7.63 (m, 2H), 7.54-7.51 (m, 1H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 2-amino-5-chlorobenzonitrile | NC1=C(C#N)C=C(C=C1)Cl | C7H5ClN2
product | 6-Chloro-N-(4-chloro-2-cyanophenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)Cl)C#N | C13H7Cl2N3O
